Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
S/P pedestrian struck
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old male who complains of being hit by 
a car at low speed.  He was behind the car and the driver 
started to back up causing him to fall to the ground. Unclear if 
there was any LOC. He was found by the EMT's sitting on a bench.

 

 
Past Medical History:
PMH:
- Colon CA -  s/p 2 bowel resections 30 and ___ years ago, no 
ileostomy. 
- H/O afib
- Hyperlipidemia
 
Social History:
___
Family History:
M - colon CA  
F - MI  
 
Physical Exam:
TEMP 99.2  HR:85 BP 192/106  RR 15  O(2)Sat:98 normal 
 
Constitutional: Comfortable
HEENT: Large scalp abrassion small lac.
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent, mae
Psych: Normal mood
___: No petechiae

 
Pertinent Results:
___ 09:05PM   HGB-13.5* calcHCT-41
___ 09:00PM   UREA N-18 CREAT-1.1
___ 09:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:00PM   ___ PTT-24.3 ___
___ 10:16PM   WBC-13.7* RBC-4.01* HGB-12.4* HCT-37.2* 
MCV-93 MCH-30.8 MCHC-33.2 RDW-14.9

___ Head CT : 1. Incomplete evaluation as posterior fossa 
completely obscured by streak artifact from dental amalgam. 
Evaluation further suboptimal due to patient motion and 
positioning. With this limitation in mind, no acute 
supratentiorial hemorrhage seen. 
2. No fracture. 
3. Posterior soft tissue hematoma. 

___ CT C spine : 1. No acute fracture is seen. 
2. Multilevel degenerative changes, worst at C5-C6 with large 
posterior 
disk-osteophyte complex at this level impinging on the thecal 
sac and placing the cord for higher risk of cord injury.  

___ Left elbow : No fracture or dislocation

 
Brief Hospital Course:
Mr. ___ was evaluated by the Trauma team in the Emergency 
Room and his Head CT and C spine CT's were reviewed and there 
were no broken bones or head bleed.  His neurologic status was 
monitored and no abnormalities were identified.  He was admitted 
to the hospital for neurologic checks overnight.  

A repeat Head CT was done the following morning which showed no 
hemorrhage or fracture. He was also evaluated by the Physical 
Therapy and Occupational Therapy services to assess his safety 
for returning home as well as to rule out any cognitive 
deficits.  He was able to ambulate safely with good balance and 
he had no cognitive deficits. He had some pain in his left elbow 
and the area was bruised but he had full range of motion. An 
xray of the left elbow confirmed no fracture or dislocation.

He was on Coumadin at home for atrial fibrillation and his INR 
was 2.0 on admission and 2.1 the following day.  Due to his fall 
he remained off Coumadin and he will discuss restarting it with 
his PCP ___.

He was tolerating a regular diet and his pain was controlled 
with Tylenol and occasionally Oxycodone. After an uneventful 
stay he was discharged to home on ___.
 
Medications on Admission:
1. simvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
2. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
3. niacin 500 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Vitamin B-100 Complex Tablet Sig: One (1) Tablet PO once a 
day.  
5. Vitamin C 1,000 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO once a day.  
6. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
7. vitamin A 8,000 unit Capsule Sig: Two (2) Capsule PO once a 
day.  
8. vitamin E 400 unit Tablet Sig: Two (2) Tablet PO once a day.  

9. zinc sulfate 220 mg Tablet Sig: One (1) Tablet PO once a day. 
 
10. selenium 50 mcg Tablet Sig: One (1) Tablet PO once a day.  
11. Coumadin 

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
2. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q4H (every 4 hours) 
as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
3. simvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
4. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
5. niacin 500 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Vitamin B-100 Complex     Tablet Sig: One (1) Tablet PO once 
a day.  
7. Vitamin C 1,000 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO once a day.  
8. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
9. vitamin A 8,000 unit Capsule Sig: Two (2) Capsule PO once a 
day.  
10. vitamin E 400 unit Tablet Sig: Two (2) Tablet PO once a day. 
 
11. zinc sulfate 220 mg Tablet Sig: One (1) Tablet PO once a 
day.  
12. selenium 50 mcg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
S/P Pedestrian struck by car

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for observation after your 
accident.
* All of the testing that has been done does not show any 
internal injuries or broken bones.
* You are being discharged home today and you should expect some 
generalized aches and pains over the next week but if you 
develop any other symptoms that concern you please return to the 
Emergency Room.
* Do not take any Coumadin until you see Dr. ___.
 
Followup Instructions:
___